US07745475B2
1-(3-Chloro-4-fluorobenzoyl)azetidine
To a solution of 3-chloro-4-fluorobenzoic acid (1.74 g, 10.0 mmol) in DCM (50 mL) was added oxalyl chloride (1.05 mL, 12.0 mmol) and DMF (1 drop). The mixture was stirred at ambient temperature for 16 hours and the DCM and excess oxalyl chloride evaporated in vacuo. The residual acid chloride and azetidine hydrochloride (1.12 g, 12 mmol) were taken up in DCM (25 mL) and triethylamine (4.18 mL, 30 mmol) added to the mixture, which was stirred at ambient temperature for 2 hours. The DCM was evaporated in vacuo, and the residue partitioned between ethyl acetate (100 mL) and 1N hydrochloric acid (50 mL). The ethyl acetate layer was washed sequentially with saturated aqueous sodium hydrogen carbonate and brine, dried (MgSO4), and evaporated. The residue was crystallized from ethyl acetate/isohexane to give the title compound (1.64 g).

reactant | 3-chloro-4-fluorobenzoic acid | 10.0 mmol, 1.74 g | ClC=1C=C(C(=O)O)C=CC1F | C7H4ClFO2
reactant | oxalyl chloride | 12.0 mmol, 1.05 mL | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | azetidine hydrochloride | 12 mmol, 1.12 g | Cl.N1CCC1
reactant | triethylamine | 30 mmol, 4.18 mL | C(C)N(CC)CC | C6H15N
solvent | DCM | 50 mL | C(Cl)Cl | CH2Cl2
catalyst | DMF | 1 drop | CN(C)C=O | C3H7NO
solvent | DCM | 25 mL | C(Cl)Cl | CH2Cl2
product | 1-(3-Chloro-4-fluorobenzoyl)azetidine | 1.64 g | ClC=1C=C(C(=O)N2CCC2)C=CC1F | C10H9ClFNO
